US06974806B2
N-(2,6-Dimethoxyphenyl)-N′-[3-(2-methylphenyl)-6,7-dihydro-5H-indeno[5,6-b]furan-2-yl]urea
A solution of 3-(2-methylphenyl)-6,7-dihydro-5H-indeno[5,6-b]furan-2-carboxylic acid (3 g), triethylamine (2.2 ml) and DPPA (2.9 ml) in benzene (200 ml) was stirred at room temperature for 1 hour, and then heated under reflux for 1 hour. After cooling to room temperature, to the reaction solution 2,6-dimethoxyaniline (1.6 g) was added and then heated under reflux for 1 hour. The reaction solution was combined with water and chloroform, and the organic layer was washed with diluted hydrochloric acid followed by a saturated aqueous solution of sodium hydrogen carbonate and water, and after drying over magnesium sulfate, the solvent was distilled off under reduced pressure. The resultant residue was purified by a silica gel column chromatography (eluent: chloroform), and further purified by recrystallization from THF-chloroform to obtain the title compound as a colorless crystal (2.4 g, 53%).

reactant | 3-(2-methylphenyl)-6,7-dihydro-5H-indeno[5,6-b]furan-2-carboxylic acid | 3 g | CC1=C(C=CC=C1)C=1C2=C(OC1C(=O)O)C=C1CCCC1=C2 | C19H16O3
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | DPPA | 2.9 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 2,6-dimethoxyaniline | 1.6 g | COC1=C(N)C(=CC=C1)OC | C8H11NO2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-(2,6-Dimethoxyphenyl)-N′-[3-(2-methylphenyl)-6,7-dihydro-5H-indeno[5,6-b]furan-2-yl]urea | 2.4 g, 53% | COC1=C(C(=CC=C1)OC)NC(=O)NC1=C(C2=C(O1)C=C1CCCC1=C2)C2=C(C=CC=C2)C | C27H26N2O4
